US05175314
Step B: (±)-Cis-4-methyl-4-cyclohexene-1,2-dimethanol
To 300 ml of tetrahydrofuran at 0° C. was added 16.0 g (0.42 mol) lithium aluminum hydride portionwise keeping the reaction temperature between 0° C. and 5° C. A solution of 33.0 g (0.20 mol) of 4-methyl-4-cyclohexene-2,3-dicarboxylic anhydride in 100 ml of tetrahydrofuran was added dropwise over 2 hours keeping the temperature between 0° C. and 10° C. The reaction mixture was warmed to ambient temperature and stirred for 2 hours. The reaction was cooled to 0° C. and 35 ml of ethyl acetate was added dropwise, followed by dropwise addition of 35 ml isoropanol and 35 ml water. The reaction mixture was filtered through celite using acetone, dried with MgSO4, filtered, and concentrated to 33.0 g of oil. Flash chromatography in 3:1 hexanes-ethylacetate, followed by 1:1 hexanes-ethylacetate and finally ethylacetate alone yielded 18.2 g of oil.

reactant | lithium aluminum hydride | 0.42 mol, 16.0 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-methyl-4-cyclohexene-2,3-dicarboxylic anhydride | 0.20 mol, 33.0 g | CC=1C2C(CCC1)C(=O)OC2=O | C9H10O3
reactant | ethyl acetate | 35 ml | C(C)(=O)OCC | C4H8O2
reactant | water | 35 ml | O | H2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | (±)-Cis-4-methyl-4-cyclohexene-1,2-dimethanol | CC=1C[C@@H]([C@@H](CC1)CO)CO | C9H16O2
